US07166628B2
Tin(II)chloride dihydrate (11.9 g, 52.6 mmol) was added to a solution of 2-methoxy-5-(1-methyl-cyclopropyl)-1,3-dinitro-benzene (2.21 g, 8.76 mmol) in ethyl acetate (30 mL). The mixture was heated to reflux for 0.25 h upon which the solution became red in color. The solution was cooled to rt and poured onto aqueous 2.0 M NaOH. The aqueous phase was extracted with ethyl acetate and the combined organic layers were washed with saturated NaHCO3. The organic layers were dried over sodium sulfate, eluted through a plug of silica gel (1% ammonium hydroxide in methylene chloride), and the filtrate was concentrated. The residue was redissolved in Et2O and extracted (3×) with 1.0 M HCl. The pH of the combined aqueous layers was adjusted to pH=12 with 2.0M NaOH and extracted with methylene chloride. The combined organic layers were dried over sodium sulfate, filtered and concentrated to provide 2-methoxy-5-(1-methyl-cyclopropyl)-benzene-1,3-diamine (860 mg, 52%) as a red oil. ESI MS (m/z 193, M+H).

reactant | Tin(II)chloride dihydrate | 52.6 mmol, 11.9 g | O.O.[Sn](Cl)Cl
reactant | 2-methoxy-5-(1-methyl-cyclopropyl)-1,3-dinitro-benzene | 8.76 mmol, 2.21 g | COC1=C(C=C(C=C1[N+](=O)[O-])C1(CC1)C)[N+](=O)[O-] | C11H12N2O5
reactant | NaOH | 2.0 M | [OH-].[Na+]
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 2-methoxy-5-(1-methyl-cyclopropyl)-benzene-1,3-diamine | 860 mg, 52% | COC1=C(C=C(C=C1N)C1(CC1)C)N | C11H16N2O
